US08247436B2
Step 1: 1,1,1-trifluoro-2-methyl-3-nitropropan-2-ol
To LiOH (0.193 g, 8.06 mmol) in a 3-neck roundbottom flask was added water (25 ml), nitromethane (3.76 ml, 81 mmol) and trifluoroacetone (7.95 ml, 89 mmol). Cetyltrimethylammonium chloride (3.8 g, 10.88 mmol) and MgSO4 (1.9 g, 16.12 mmol) were added and the resulting yellow solution stirred at 20-25° C. for 2 days. The reaction mixture was poured into diethyl ether (120 ml) and washed with water (3×200 ml) and brine (1×100 ml). The organic portion was dried over MgSO4 and concentrated in vacuo to afford the title compound as a yellow liquid. 1H NMR (CDCl3, 400 MHz): δ 4.7 (1H, d), δ 4.5 (1H, d), δ 3.7 (1H, broad), δ 1.6 (3H, s). Step 2: 3-Amino-1,1,1-trifluoro-2-methylpropan-2-ol hydrochloride

reactant | LiOH | 8.06 mmol, 0.193 g | [Li+].[OH-]
reactant | nitromethane | 81 mmol, 3.76 ml | [N+](=O)([O-])C | CH3NO2
reactant | trifluoroacetone | 89 mmol, 7.95 ml | FC(C(C)=O)(F)F | C3H3F3O
reactant | MgSO4 | 16.12 mmol, 1.9 g | [O-]S(=O)(=O)[O-].[Mg+2]
catalyst | Cetyltrimethylammonium chloride | 10.88 mmol, 3.8 g | [Cl-].C(CCCCCCCCCCCCCCC)[N+](C)(C)C
solvent | diethyl ether | 120 ml | C(C)OCC | C4H10O
solvent | water | 25 ml | O | H2O
product | 1,1,1-trifluoro-2-methyl-3-nitropropan-2-ol | FC(C(C[N+](=O)[O-])(O)C)(F)F | C4H6F3NO3
